US08133882B2
Under ice-cooling, 11.5 g of sodium triacetoxyborohydride was added in small portions to a solution of 4.0 g of 3,4,5-trifluoroaniline and 3.6 ml cyclopentanone in 150 ml dichloroethane and 3.1 ml acetic acid, and, after rising to room temperature, stirred for 3.5 hours. Aqueous saturated sodium hydrogen carbonate was added thereto, followed by extraction with chloroform and subsequent drying over anhydrous sodium sulfate. After filtration, the solvent was evaporated under a reduced pressure, and the resulting residue was purified by silica gel column chromatography to obtain 5.4 g of N-cyclopentyl-3,4,5-trifluoroaniline.

reactant | sodium triacetoxyborohydride | 11.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3,4,5-trifluoroaniline | 4.0 g | FC=1C=C(N)C=C(C1F)F | C6H4F3N
reactant | cyclopentanone | 3.6 ml | C1(CCCC1)=O | C5H8O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 150 ml | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 3.1 ml | C(C)(=O)O | C2H4O2
product | N-cyclopentyl-3,4,5-trifluoroaniline | 5.4 g | C1(CCCC1)NC1=CC(=C(C(=C1)F)F)F | C11H12F3N
